Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Norvasc
 
Attending: ___.
 
Chief Complaint:
fatigue
 
Major Surgical or Invasive Procedure:
right knee aspiration, ___

 
History of Present Illness:
___ with dementia, ischemic cardiomyopathy EF 50%, CVA, DM, HTN, 
CKD, and newly diagnosed urothelial bladder CA admitted with 
increasing drowsiness over three weeks. According to the 
patient's son, he had been sleeping more and talking and eating 
less. His gait and behavior had been altered such that if the 
patient's son asks him to walk forward he walks backward and if 
asked to lift his tongue upward he moves it downward. His mental 
status and cognition have also been somewhat depressed. He was 
prescribed Ambien approx three weeks prior to admission for 
insomnia, however that was promptly discontinued when fatigue 
persisted. No other new medication changes. Although chronic 
urinary urgency had previously prompted the patient to ask for 
help to the bathroom, he has not been asking for assistance as 
of late. He completed a 10-day course of levofloxacin for 
pneumonia approximately one month before his admission. No 
history of fever, chills, headache, cough, chest pain, shortness 
of breath, abdominal pain, vomiting, diarrhea, dysuria, rash, 
weakness, numbness, parasthesias, or falls. The patient was 
being evaluated in neurology clinic on the day of admission 
where he was very somnolent but arousable, BP 90/50 HR 60 bpm. 
He was referred to the ED for further evaluation. In the ED, 
initial vital signs 98.5 63 146/56 18 99%RA. The patient was 
admitted to the medical service for further care.
 
Past Medical History:
urothelial bladder CA - positive cytology from ___  
CAD s/p MI  
chronic systolic CHF EF 50% by TTE ___ementia  
CKD b/l Cr ~1.3  
COPD  
HTN  
L Bell's palsy  
microcytic anemia, baseline HCT ~32%
 
Social History:
___
Family History:
Noncontributory.  
 
Physical Exam:
Admission Exam
V/S: T 97.9 HR 66 BP 159/84 RR 18 O2sat 97%RA  
GEN: Appears well, NAD  
HEENT: L eye extropion with purulent discharge, R eye scleral 
injection, L facial droop, dry MM  
NECK: supple no JVD R carotid bruit  
CV: reg rate nl S1S2 no R/M/G  
PULM: CTAB no w/r/r  
ABD: soft NTND normoactive BS guaiac negative (per ED notes).  
GU: foley draining grossly bloody urine  
EXT: warm, dry +PP no edema  
SKIN: no rash  
NEURO: somnolent but alert when aroused; oriented to person and 
"hospital" only; with exception of peripheral VII, CN grossly 
intact; strength and sensation to light touch preserved in all 4 
ext ___  

Notable exam findings at discharge:
Mental status is arousable, oriented to person, place and 
general time, generally responding to questions appropriately 
with one or two word answers.
Lungs clear
Moderate pitting edema of the right lower extremity to mid-thigh
 
Pertinent Results:
Admission Labs:
___ 03:10PM   WBC-5.1 RBC-3.86* HGB-10.5* HCT-31.6* MCV-82 
MCH-27.3# MCHC-33.3 RDW-15.7*
___ 03:10PM   PLT COUNT-191
___ 03:10PM   NEUTS-72.9* LYMPHS-15.3* MONOS-5.5 EOS-5.7* 
BASOS-0.6
___ 03:10PM   GLUCOSE-310* UREA N-26* CREAT-1.6* SODIUM-140 
POTASSIUM-4.5 CHLORIDE-102 TOTAL CO2-28 ANION GAP-15
.
Discharge Labs:
Na 146
K 3.7
Cl 111
HCO3 30
BUN 25
Cr 1.7
Glucose 87
WBC 5.7
HCT 26.4
Plt 267
.
Admission EKG: SB 56 bpm ___ deg AV cond delay. Normal axis no 
ST-T wave abnormalities. Not significantly changed from ___.
.
Head CT (___): IMPRESSION: No evidence of acute hemorrhage 
or shift of normally midline structures to suggest large mass. 
Please note that MRI is more sensitive in detection of acute 
ischemia or mass lesions. Given the extent of dilation of the 
lateral ventricles, possibility of NPH superimposed on volume 
loss changes needs to be considered and correlated clinically. 
.
Echo (___):
The left atrium is dilated. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. The mitral valve leaflets are mildly thickened. 
There is no mitral valve prolapse. Trivial mitral regurgitation 
is seen. The tricuspid valve leaflets are mildly thickened. 
There is mild pulmonary artery systolic hypertension. There is 
no pericardial effusion. 
Compared with the prior study (images reviewed) of ___, 
the previously mentioned inferior and inferolateral hypokinesis 
is not seen on the current report. The other findings are 
similar.  
.
Abdominal Ultrasound (___):
FINDINGS: There is no hydronephrosis identified in either 
kidney. The bladder is only partially distended. The solid mass 
is again seen within the lumen of the bladder measuring 2.4 x 
2.7 x 3.1 cm. This appears slightly larger than the ultrasound 
of ___ when this mass measured 2.2 x 1.9 x 1.9 cm. No 
additional masses identified within the region of the pelvis, 
however, ultrasound is limited in its ability to evaluate this 
area. 
IMPRESSION: 1) No hydronephrosis. 2) Solid bladder mass 
measuring 3.1 cm 
which is slightly larger than the prior ultrasound as described 
above. 3) No additional pelvic mass identified on limited 
imaging. 
.
Right ___ ultrasound (___):
COMPARISON: Right lower extremity ultrasound from ___. 
ULTRASOUND IMAGES OF THE RIGHT LOWER EXTREMITY VEINS: The right 
common 
femoral, superficial femoral, and popliteal veins demonstrate 
normal flow, 
compressibility and augmentation. The right peroneal veins are 
patent. The 
right posterior tibial veins are not definitively identified.
IMPRESSION: Limited study as the right posterior tibial veins 
were not 
definitively identified, otherwise no evidence of deep venous 
thrombosis. 
(Please note that these findings were similar to an ultrasound 
of the RLE performed on ___ for a similar indication).
 
Brief Hospital Course:
___ male with dementia, ischemic cardiomyopathy EF 50%, DM, CKD, 
and relatively recent diagnosis of urothelial carcinoma/bladder 
mass, admitted with increasing fatigue and somnolence for three 
weeks, eventually thought most likely related to MRSA UTI.
.
#Fatigue/somnolence - A broad differential was considered, 
including possible toxic or metabolic causes. The patient's 
electrolytes were normalized and folate, B12, TSH, free T4, RPR, 
and LFTs (including ammonia) were all checked and were within 
normal limits. An initial infectious workup was negative. The 
neurology service was consulted as the patient was initially 
referred in from neurology clinic and due to concern of dilation 
of the lateral ventricles on head CT. Their impression was that 
an element of NPH was a possible contributing factor to the 
patient's presentation, but that this was unlikely to be the 
only cause. Additionally, effective evaluation of NPH would 
require the patient to be as well and stable as possible, and 
able to walk, so that he could undergo detailed testing before 
and after LP with CSF removal. An additional complication was 
that the question of NPH had been raised to the patient when he 
was more lucid, and he declined to undergo evaluation stating he 
would not want surgery for shunt placement. Outpatient neurology 
follow-up was suggested. After several days in the hospital the 
patient developed a fever, and an ongoing infectious work-up was 
continued. A urine culture eventually grew out >100,000 colonies 
of MRSA. With treatment of this infection, the patient's mental 
status improved significantly, although his overall level of 
interaction and verbal communication remained fairly low. Per 
his son, this was close to his initial baseline several weeks 
before the deterioration leading to his admission. It seems 
likely that an element of depression may also be contributing to 
the patient's overall picture; consideration was given to 
possible initiation of pharmacotherapy (such as methylphenidate 
or mirtazapine), however ultimately this was deferred, at least 
temporarily, while the patient's other medical issues reach 
resolution.
.  
#Fevers/UTI: Beginning on the patient's third hospital day, he 
began experiencing fevers. An infectious work-up, including two 
UAs, was non-revealing. He received approximately two days of 
empiric vancomycin and Zosyn out of concern for impending 
clinical deterioration. Eventually his urine culture grew MRSA, 
and this was felt to be the source of his fevers. He was at risk 
for MRSA having had urologic procedures in the last few months, 
as well as Foley catheter placement during this hospitalization. 
His catheter was removed, his antibiotic therapy narrowed to 
vancomycin alone, and his fevers resolved. Several days later, 
lower-grade temperature returned (as high as 100.8). A repeat 
infectious and non-infectious work-up was again undertaken, 
which did not reveal a cause. Drug fever was felt to be a 
possibility, and vancomycin was stopped after seven days of 
total therapy. He promptly defervesced with this and had no 
further elevated temperatures prior to discharge. 
.
#RLE and knee swelling: This was first noted several days into 
the patient's hospitalization. It began with warmth and swelling 
of the patient's right knee. An x-ray was obtained demonstrating 
the presence of previously placed orthopedic hardware and 
degenerative changes. A RLE ultrasound was negative for clot. 
The right knee was tapped on ___ to differentiate between 
gout versus possible septic arthritis; the tap was consistent 
with gout. Over the next several days, the patient developed 
ascending edema of the RLE. A repeat ultrasound was again 
obtained, to evaluate both for thrombus or a possible 
compressive pelvic mass; neither of these were identified. In 
the last two days of hospitalization, the swelling appeared to 
improve mildly. Of note, the patient had been off his diuretics 
given his renal failure. If this swelling continues to persist, 
an abdominal CT scan should be considered, however this was not 
pursued prior to discharge given the patient's rapidly changing 
renal function.
.
#Acute renal failure: The patient's baseline SCr is thought to 
be approximately 1.3-1.4. At admission, his creatinine was 
mildly elevated at 1.6. His furosemide and ___ were held. His 
creatinine subsequently improved, however several days into his 
hospitalization he was noted to have an unexplained bump in both 
his SCr (peak 2.7) and his LFTs (predominantly a transaminitis, 
peak ALT 458, peak AST 867). The etiology of both these 
processes was unclear, however they appeared to be most 
consistent with an ischemic episode of some kind (of note, no 
hypotensive episodes, even mild hypotension, were ever 
documented). Cardiac biomarkers were cycled and an echo was 
obtained, both of which were non-revealing. The patient's renal 
function and LFTs improved (SCr back to 1.5). Later on his 
hospital course, his renal failure worsened again slightly; this 
was thought to be due to poor PO intake and responded to fluid 
administration.
.
#Transient rise in LFTs: Please see section on acute renal 
failure as above. This was thought to be related to transient 
hepatorenal ischemia, although the exact etiology was not 
completely clear.
.
#Poor PO intake/electrolyte abnormalities: The patient was felt 
to have poor PO intake throughout his stay, primarily related to 
his mental status. Without IV fluid support, he would trend 
towards a pre-renal, hypernatremic picture (serum Na 146 on day 
of discharge). The patient would respond well to feeding by 
family members and the nursing staff. It is hoped that with 
rehabilitation and further improvement in his mental status, his 
ability to take POs will improve.
.
#Aspiration: The patient is felt to aspirate his sections and 
oral intake frequently. He was empirically placed on a pureed 
and thickened diet, which seemed to improve this issue somewhat. 
His did not have a formal Speech and Swallow evaluation and it 
was thought unlikely this would change the nature of his care. 
He was not thought to have frank aspiration pneumonia at any 
point in his stay.
.
#Pruritus/rash: This was a chronic issue for the patient, 
beginning many months ago. Dermatology was consulted since the 
patient was itching his skin to the extent breakdown was 
occurring. Topical therapies, including triamcinolone as needed, 
were recommended and are included in the discharge medication 
list. 
.
#Conjunctivitis/corneal abrasion: The patient had seen his 
optometrist just prior to admission and was thought to have a 
left sided conjunctivitis. In the hospital, he was empirically 
treated with erythromycin ointment and tobramycin drops. His 
right eye was also bothering him, and ophthalmology was 
eventually consulted. The patient was found to have a right eye 
corneal abrasion, probably caused when the patient was 
scratching. An eye patch and keeping the eye lid closed were 
recommended; antibiotic drops were also initiated. The patient 
is scheduled for ophthalmology follow-up at ___ tomorrow, 
___.
.
#Hematuria/urothelial cell carcinoma: The patient had been 
previously known to have a bladder mass; this was diagnosed as a 
carcinoma by urine cytology shortly before admission. At 
admission, the patient was having significant hematuria. A Foley 
catheter was placed to allow for flushing of the bladder; his 
hematuria persisted, and he eventually required continuous 
irrigation for several days. In this setting, he required a 
total of three units pRBCs transfusion (two units, followed by 
an additional unit several days later). His hematuria improved 
significantly and all catheters were able to be discontinued 
within approximately the first week of his stay. The patient has 
planned urology follow-up for resection of the mass in the 
coming weeks.
.
#anemia: This was thought to be multifactorial in etiology 
(iron-deficiency, chronic blood loss, chronic disease). The 
patient's HCT ranged in the mid-20s for most of his stay, with 
one dip as low as 21 while he was having hematuria. This 
responded to RBC transfusion.  
.  
#Ischemic cardiomyopathy: The patient was felt to by dry to 
euvolemic during most of his admission, despite the holding of 
his furosemide (and ___ due to his ARF. He also tolerated the 
administration of several liters of fluid without any evidence 
of volume overload except, possible, his RLE swelling. An echo 
was checked and was unchanged. He was continued on his home beta 
blocker and ASA.
.  
#CAD: The patient's home ASA, beta blocker and statin were 
continued.
.  
#DM: The patient's home glipizide was held. He was managed with 
fixed dose/sliding scale insulin. 
.  
#HTN: As above, the patient's home beta blocker was continued 
but his ___ was held. He was mildly hypertensive during his stay 
but not to a degree that required intervention.
.
.
#Contact: If further information concerning this complex patient 
is desired, please contact ___, MD, ___, 
pager ___.
 
Medications on Admission:
Cozaar 25 mg daily  
Aricept 5 mg daily  
Namenda dose unknown  
Lipitor 40 mg daily  
Terazosin 2 mg daily  
Furosemide 40 mg daily  
Metoprolol 12.5 mg daily  
Glipizide 10 mg daily  
Combivent 18mcg/103mcg 2 puffs QID  
Aspirin 81 mg daily  
tobradex L eye BID  
e-mycin gtt R eye BID  
 
Discharge Medications:
1. Donepezil 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime). 
 
2. Terazosin 2 mg Capsule Sig: One (1) Capsule PO at bedtime.  
3. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
6. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. Docusate Sodium 100 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
8. Sarna Anti-Itch 0.5-0.5 % Lotion Sig: One (1) application 
Topical three times a day as needed for itching.  
9. Combivent ___ mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation four times a day.  
10. Miralax 17 gram/dose Powder Sig: One (1) dose PO once a day 
as needed for constipation.  
11. Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical BID 
(2 times a day): Apply to groin folds.  
12. Triamcinolone Acetonide 0.1 % Ointment Sig: One (1) Appl 
Topical BID (2 times a day) as needed for skin itch.  
13. White Petrolatum-Mineral Oil     Cream Sig: One (1) Appl 
Topical BID (2 times a day) as needed for itchy skin.  
14. Insulin Aspart  Subcutaneous
15. Insulin Glargine  Subcutaneous
16. Vigamox 0.5 % Drops Sig: One (1) drop Ophthalmic four times 
a day: Right eye.  
17. Polysporin 500-10,000 unit/g Ointment Sig: One (1) drop 
Ophthalmic three times a day: Right eye.  
18. Debrox 6.5 % Drops Sig: ___ drops Otic twice a day for 3 
days: Please apply in both ears.  
19. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
20. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
21. Namenda 5 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
urinary tract infection
drug induced fevers
acute on chronic renal failure
urothelial bladder CA 
right lower extremity swelling
right corneal abrasion

Secondary:
CAD s/p MI  
congestive heart failure
prior CVA  
diabetes
dementia  
CKD  
COPD  
HTN  
anemia 

 
Discharge Condition:
Mental status improved, ambulatory with assistance, afebrile, 
vitals stable.

 
Discharge Instructions:
You were admitted to the hospital with a decrease in your mental 
status. We believe that this was due in part to a urinary tract 
infection. We have treated you for this and you have improved. 
You will need ongoing attention to your medical problems to 
continue your recovery.

It is important that you continue to take your medications as 
directed. We made the following changes to your medications 
during this admission:
--> furosemide was stopped
--> losartan was stopped
--> antibiotic eye drops were started
--> triamcinalone was started

Contact your doctor or come to the Emergency Room should your 
symptoms return. Also seek medical attention if you develop any 
new fever, chills, trouble breathing, chest pain, nausea, 
vomiting or unusual stools.
 
Followup Instructions:
___